US07601842B2
Preparation of methyl 3-(3,5-dichlorophenylamino)-2-pentenoate
In a 300 mL-flask were placed 3,5-dichloroaniline (25.0 g, 154 mmol), methyl 3-oxopentanoate (22.1 g, 170 mmol) and toluene (160 mL). To this solution was added p-toluenesulphonic acid monohydrate (0.59 g, 3.1 mmol), and the resulting mixture was heated in a bath kept at 100° C. under a reduced pressure of 21 kPa for 3 hours, while the water generated was taken out of the reaction system by using a Dean-Stark trap under reflux. p-Toluenesulphonic acid monohydrate (0.59 g, 3.1 mmol) was then added, and reflux was continued for 1 hour. The heating was then discontinued, nitrogen leaked in, and the reaction mixture cooled. After distillation of the solvent under reduced pressure, the residue was distilled under reduced pressure to give 27.4 g of the title compound. The yield was 64.8%.

reactant | 3,5-dichloroaniline | 154 mmol, 25.0 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | methyl 3-oxopentanoate | 170 mmol, 22.1 g | O=C(CC(=O)OC)CC | C6H10O3
reactant | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulphonic acid monohydrate | 3.1 mmol, 0.59 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
catalyst | p-Toluenesulphonic acid monohydrate | 3.1 mmol, 0.59 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | methyl 3-(3,5-dichlorophenylamino)-2-pentenoate | 27.4 g, yield was 64.8% | ClC=1C=C(C=C(C1)Cl)NC(=CC(=O)OC)CC | C12H13Cl2NO2
